US07273877B2
2-(Aminooxy)ethanol, 4-[(1-chloro-2-naphthyl)amino]-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid, DMT-MM and N-MM (2 eq) were reacted in 20% water/MeOH for 15 h according to the procedure outlined in example 33, step D. Further purification by flash chromatography on silica gel (EtOAc followed by 10% MeOH/CH2Cl2—100% MeOH gradient elution) gave 4-[(1-chloro-2-naphthyl)amino]-N-(2-hydroxyethoxy)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide (24%). 1H NMR [400 MHz, (CD3)2SO] δ 11.72 (br s, 1H), 9.89 (br s, 1H), 8.20-8.14 (m, 1H), 7.98 (t, J=9.6 Hz, 2H), 7.74-7.67 (m, 2H), 7.61-7.56 (m, 2H), 5.69 (s, 1H), 4.78 (br s, 1H), 3.94 (t, J=4.8 Hz, 2H), 3.67-3.61 (m, 2H), 3.38 (s, 3H). LCMS (ACPI−) 386 (100%).

reactant | 2-(Aminooxy)ethanol | NOCCO | C2H7NO2
reactant | 4-[(1-chloro-2-naphthyl)amino]-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid | ClC1=C(C=CC2=CC=CC=C12)NC=1C(=CN(C(C1)=O)C)C(=O)O | C17H13ClN2O3
reactant | DMT-MM | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | water MeOH | O.CO
product | 4-[(1-chloro-2-naphthyl)amino]-N-(2-hydroxyethoxy)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 24% | ClC1=C(C=CC2=CC=CC=C12)NC=1C(=CN(C(C1)=O)C)C(=O)NOCCO | C19H18ClN3O4
